US05385904
N,N'-dibenzylethylenediaminium-N,N'-diacetyl-L-cystinate (Ib; R=PhCH2NH2CH2CH2NH2CH2Ph)
To a 63% solution of N,N'-diacetyl-L-cystine in water (67 mmole, 21.8 g) was added N,N'-dibenzylethylenediamine (67 mmole, 16.0 g). The exothermic reaction gave a slightly oily product which could be recrystallised from water to give 12.0 g (32%) of the title substance as white crystalline needles.

reactant | N,N'-diacetyl-L-cystine | C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(C)=O)C(=O)O | C10H16N2O6S2
reactant | water | 67 mmole, 21.8 g | O | H2O
reactant | N,N'-dibenzylethylenediamine | 67 mmole, 16.0 g | C(C1=CC=CC=C1)NCCNCC1=CC=CC=C1 | C16H20N2
product | N,N'-dibenzylethylenediaminium N,N'-diacetyl-L-cystinate | C(C1=CC=CC=C1)[NH2+]CC[NH2+]CC1=CC=CC=C1.C(C)(=O)N[C@@H](CSSC[C@@H](C(=O)[O-])NC(C)=O)C(=O)[O-] | InChI=1S/C16H20N2.C10H16N2O6S2/c1-3-7-15(8-4-1)13-17-11-12-18-14-16-9-5-2-6-10-16;1-5(13)11-7(9(15)16)3-19-20-4-8(10(17)18)12-6(2)14/h1-10,17-18H,11-14H2;7-8H,3-4H2,1-2H3,(H,11,13)(H,12,14)(H,15,16)(H,17,18)/t;7-,8-/m.0/s1
